US05780642
N-[2-(4-Benzyloxyphenoxy)ethyl]-3-(imidazol-1-yl)propylamine dihydrochloride hydrate (4.24 g) was suspended in IMS (200 ml) and methanol (10 ml) and hydrogenated at atmospheric pressure using 10% palladium/charcoal as a catalyst (0.44 g). The mixture was filtered and the filtrate evaporated to give a residue which was triturated with warm ether and filtered to give a solid which was recrystallised from methanol/ether to give 4-{2-[3-(imidazol-1-yl)propylamino]ethoxy}phenol dihydrochloride, m.p. 195°-197° C.

reactant | N-[2-(4-Benzyloxyphenoxy)ethyl]-3-(imidazol-1-yl)propylamine dihydrochloride hydrate | 4.24 g | O.Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(OCCNCCCN2C=NC=C2)C=C1
catalyst | palladium/charcoal | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 4-{2-[3-(imidazol-1-yl)propylamino]ethoxy}phenol dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCNCCOC1=CC=C(C=C1)O | InChI=1S/C14H19N3O2.2ClH/c18-13-2-4-14(5-3-13)19-11-8-15-6-1-9-17-10-7-16-12-17;;/h2-5,7,10,12,15,18H,1,6,8-9,11H2;2*1H
